US05302593
b) Preparation of 8-pyrrolidinyloctylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 8-pyrrolidinyloctylphthalimide (263 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 8-pyrrolidinyloctylphthalimide | 0.8 mmoles, 263 mg | N1(CCCC1)CCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C20H28N2O2
solvent | methanol | 5 ml | CO | CH4O
product | 8-pyrrolidinyloctylamine | N1(CCCC1)CCCCCCCCN | C12H26N2
